US05834494
4,5-Dichloro-1-(3-pyridylcarbamoyl)indoline (E16)
The title compound was prepared as in the method of (Example 2) from 3-pyridylisocyanate and 4,5-dichloroindoline (D32) to give (E16) (0.5 g, 25%) m.p. >240° C.

reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
reactant | 4,5-dichloroindoline | ClC1=C2CCNC2=CC=C1Cl | C8H7Cl2N
product | 4,5-Dichloro-1-(3-pyridylcarbamoyl)indoline | ClC1=C2CCN(C2=CC=C1Cl)C(NC=1C=NC=CC1)=O | C14H11Cl2N3O
